US07618961B2
Ethyl (2-{[(5-chloro-2-thienyl)sulfonyl]amino}-1,3-thiazol-4-yl)acetate
The title compound was prepared from ethyl 2-amino-4-thiazolylacetate and 5-chlorothiophene-2-sulfonyl chloride as described in the synthetic METHOD B to give a white solid (24.3 mg) with purity >90%. MS (pos) m/z 367.1, 369.1.

reactant | ethyl 2-amino-4-thiazolylacetate | NC=1SC=C(N1)CC(=O)OCC | C7H10N2O2S
reactant | 5-chlorothiophene-2-sulfonyl chloride | ClC1=CC=C(S1)S(=O)(=O)Cl | C4H2Cl2O2S2
product | Ethyl (2-{[(5-chloro-2-thienyl)sulfonyl]amino}-1,3-thiazol-4-yl)acetate | ClC1=CC=C(S1)S(=O)(=O)NC=1SC=C(N1)CC(=O)OCC | C11H11ClN2O4S3
